US04415572
6-(1-Piperazinyl)carbostyril hydrobromide (2.0 g) was suspended in 20 ml of DMF. After adding 2.34 ml of triethylamine, a solution of 1.43 g of 3,4-methylenedioxybenzoyl chloride in 2 ml of DMF was added dropwise to the mixture. After completion of addition, the mixture was stirred at room temperature for 30 minutes and the reaction mixture was poured in a large amount of water. Crystals which formed were collected by filtration and dried. Then, the crystals were purified through silica gel column chromatography and recrystallized from chloroform-methanol to give 1.9 g of 6-[4-(3,4-methylenedioxybenzoyl)-1-piperazinyl]carbostyril, m.p. 266°-267° C. (decomp.), yellow powders.

reactant | 6-(1-Piperazinyl)carbostyril hydrobromide | 2.0 g | Br.N1(CCNCC1)C=1C=C2C=CC(NC2=CC1)=O
reactant | triethylamine | 2.34 ml | C(C)N(CC)CC | C6H15N
reactant | 3,4-methylenedioxybenzoyl chloride | 1.43 g | C1OC=2C=C(C(=O)Cl)C=CC2O1 | C8H5ClO3
reactant | water | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 6-[4-(3,4-methylenedioxybenzoyl)-1-piperazinyl]carbostyril | 1.9 g | C1OC=2C=C(C(=O)N3CCN(CC3)C=3C=C4C=CC(NC4=CC3)=O)C=CC2O1 | C21H19N3O4
